US08242153B2
To a stirred solution of (S)-2,2-dimethyl-4-(2-oxo-ethyl)-oxazolidine-3-carboxylic acid tert-butyl ester (12.0 g; CAS 147959-19-1) in dry diethyl ether (200 ml) under an argon atmosphere at room temperature was added dropwise a solution of methylmagnesium bromide in diethyl ether (49.3 ml, 3 M solution) and stirring continued overnight. The reaction mixture was then quenched by careful addition of water and extracted twice with ethyl acetate. The combined organic phases were dried over sodium sulphate, filtered and concentrated in vacuo. The reside was purified by column chromatography (SiO2; gradient: heptane/EtOAc 100:0→50:50) to give (S)-4-((R)-2-hydroxy-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (5.89 g) from fractions eluting first and (S)-4-((S)-2-hydroxy-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (4.07 g) from fractions eluting later, both compounds as light yellow oils. (S)-4-((R)-2-hydroxy-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester: 1H NMR δ (CDCl3, 300 MHz): 4.60 (1H, br. D, J=3.3 Hz), 4.23 (1H, m), 4.00 (1H, dd, J=8.7 & 5.4 Hz), 3.71 (1H, m), 3.65 (1H, d, J=8.7 Hz), 1.76 (1H, td, J=11.4 & 2.1 Hz), 1.61-1.46 (16H, m), 1.20 (3H, d, J=6.3 Hz). (S)-4-((S)-2-hydroxy-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester: 1H NMR δ (CDCl3, 300 MHz): 4.13 (1H, m), 3.98 (1H, m), 3.85-3.60 (2H, m), 2.50 (1H, br. s), 1.80 (1H, m), 1.60-1.49 (16H, m), 1.22 (3H, d, J=6.3 Hz).

reactant | (S)-2,2-dimethyl-4-(2-oxo-ethyl)-oxazolidine-3-carboxylic acid tert-butyl ester | 12.0 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC=O)(C)C | C12H21NO4
reactant | methylmagnesium bromide | C[Mg]Br
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 3 M, 49.3 ml | C(C)OCC | C4H10O
product | (S)-4-((R)-2-hydroxy-propyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 5.89 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C[C@@H](C)O)(C)C | C13H25NO4
